US06936612B2
5-Bromo-2-nitropyridine (4.84 g, 23.84 mmol), tetra-n-butyl ammonium iodide (0.440 g, 1.19 mmol), 2,6-dimethyl-morpholine (3.02 g, 26.22 mmol) and potassium carbonate (3.62 g, 26.22 mmol) were mixed in DMSO (45 mL). The reaction mixture was warmed to 80° C. for 6 hours. The reaction mixture was diluted with ethyl acetate and filtered. The volume of the filtrate was reduced to remove ethyl acetate, and the remaining solution was diluted with water (50 mL). A precipitate immediately formed and was collected by filtration then washed on the funnel with water to provide 2,6-dimethyl-4-(6-nitro-pyridin-3-yl)-morpholine as an orange solid (4.39 g, 78.0%). 1H NMR δ (400 MHz, CDCl3) 8.16 (d, J=9.0 Hz, 1H), 8.11 (d, J=2.9 Hz, 1H), 7.19 (dd, J=2.9, 9.3 Hz, 1H), 3.77 (m, 2H), 3.65 (dd, J=2.2, 12.9 Hz, 2H), 2.66 (dd, J=10.7, 12.5 Hz, 2H), 1.29 (d, J=6.4 Hz, 6H).

reactant | 5-Bromo-2-nitropyridine | 23.84 mmol, 4.84 g | BrC=1C=CC(=NC1)[N+](=O)[O-] | C5H3BrN2O2
reactant | 2,6-dimethyl-morpholine | 26.22 mmol, 3.02 g | CC1CNCC(O1)C | C6H13NO
reactant | potassium carbonate | 26.22 mmol, 3.62 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetra-n-butyl ammonium iodide | 1.19 mmol, 0.440 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMSO | 45 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,6-dimethyl-4-(6-nitro-pyridin-3-yl)-morpholine | 4.39 g, 78.0% | CC1CN(CC(O1)C)C=1C=NC(=CC1)[N+](=O)[O-] | C11H15N3O3
